US09210927B2
Preparation of 4-(Bromomethyl)-1-naphthaldehyde (CI67)
To a stirred solution of 4-(bromomethyl)-1-naphthonitrile (8 g, 33 mmol) in toluene (100 mL) at 0° C. was added dropwise DIBAL-H (1.0 M solution in toluene; 43 mL), and the reaction mixture was stirred at 0° C. for 1 h. 3 N HCl in H2O (50 mL) was added to the mixture until it became a white slurry and then additional 1 N HCl (20 mL) was added. The organic layer was collected and the aqueous layer was extracted with EtOAc (3×100 mL). The combined organic layer was dried over Na2SO4 and concentrated under reduced pressure. Purification by flash column chromatography (SiO2, 100-200 mesh; 5% EtOAc in petroleum ether) afforded the title compound as a white solid (7 g, 88%): mp 115-116° C.; 1H NMR (400 MHz, CDCl3) δ 10.41 (s, 1H), 9.35 (m, 1H), 8.22 (m, 1H), 7.90 (d, J=8.0 Hz, 1H), 7.75 (m, 3H), 4.95 (s, 2H); ESIMS m/z 248.88 ([M+H]+).

reactant | 4-(bromomethyl)-1-naphthonitrile | 33 mmol, 8 g | BrCC1=CC=C(C2=CC=CC=C12)C#N | C12H8BrN
reactant | DIBAL-H | 1.0 M, 43 mL | CC(C)C[AlH]CC(C)C
reactant | HCl | 3 N | Cl | ClH
reactant | HCl | 1 N, 20 mL | Cl | ClH
reactant | H2O | 50 mL | O | H2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(Bromomethyl)-1-naphthaldehyde | 7 g, 88% | BrCC1=CC=C(C2=CC=CC=C12)C=O | C12H9BrO
